US05064947
2.5 g of the starting material 1-phenyl-4,6-dichloropyrazolo[3,4-d]pyrimidine was suspended in 60 ml of ethanol. Next, 4.28 g of (S)-(-)-2-amino-3-phenyl-1-propanol was added and the reaction was allowed to stir for 24 hours. The solvent was then removed under vacuum and the crude oil was purified by flash chromatography (10-15-20% isopropyl alcohol/hexane) to yield 3.5 g of (S)-β-[(1-phenyl-6-chloro-1H-pyrazolo[3,4-d]pyrimidin-4-yl)amino]benzenepropanol (97%).

reactant | 1-phenyl-4,6-dichloropyrazolo[3,4-d]pyrimidine | C1(=CC=CC=C1)N1N=CC=2C1=NC(=NC2Cl)Cl | C11H6Cl2N4
reactant | (S)-(-)-2-amino-3-phenyl-1-propanol | 4.28 g | N[C@H](CO)CC1=CC=CC=C1 | C9H13NO
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | (S)-β-[(1-phenyl-6-chloro-1H-pyrazolo[3,4-d]pyrimidin-4-yl)amino]benzenepropanol | 3.5 g, 97% | C1(=CC=CC=C1)N1N=CC=2C1=NC(=NC2N[C@H](CO)CC2=CC=CC=C2)Cl | C20H18ClN5O
